US08067448B2
2-Chloro-4-((1R,2R)-1-(5-(4-fluoro-3-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
4-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)-4-fluoro phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (1.11 g, 1.76 mmol) was dissolved in THF (40 mL) and cooled down to −55° C. under N2 atmosphere. TBAF (1.0 M solution in THF, 4.21 ml, 4.22 mmol) was added to the pre-cooled solution slowly and the temperature allowed to rise gradually. After the reaction was complete, it was quenched with a saturated aqueous NH4Cl solution and extracted with EtOAc. Purification with column chromatography gave the desired product (650 mg) Mp 106-110° C., 1H NMR (400 MHz, acetone-d6, δ in ppm): 7.63 (dd, J=3.9 Hz, 1H), 7.49 (m, 2H), 7.30 (m, 1H), 6.89 (d, J=9 Hz, 1H), 5.87 (d, J=9 Hz, 1H), 5.05 (m, 1H), 4.52 (m, 1H), 2.37 (s, 3H), 1.40 (d, J=6 Hz, 3H).

reactant | 4-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)-4-fluoro phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 1.76 mmol, 1.11 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1OC(=NN1)C1=CC(=C(C=C1)F)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C31H44ClFN4O3Si2
reactant | TBAF | 4.22 mmol, 1.0 M, 4.21 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-((1R,2R)-1-(5-(4-fluoro-3-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | 650 mg | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@@H](C)O)C=1OC(=NN1)C1=CC(=C(C=C1)F)O | C19H16ClFN4O3
